US04879382
A solution of 3.7 g of 10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine in 100 ml of benzene was treated with 1.6 ml of methyl isocyanate and then stirred at 70° C. for five hours. After cooling, the mixture was evaporated under reduced pressure and the residue was dissolved in water. The aqueous layer extracted with ethyl acetate. The combined organic layer was washed with water followed by a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. Purification of the residue was achieved by means of high pressure liquid chromatography (silica gel; elution with 2.5% methanol/dichloromethane) to afford 2.3 g of 10,11-dihydro-5-methyl-11-methylcarbamyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine m.p. 197°-200° C. (dec.). The solid was dissolved in ethanol and acidified with an ethanol solution of maleic acid to precipitate the corresponding maleate salt. Recrystallization of the salt from ethanol yielded 1.8 g of 10,11-dihydro-5-methyl-11 -methylcarbamyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine maleate, m.p. 160°-161° C.

reactant | 10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 3.7 g | CN1N2C(CNC3=C1C=CN=C3)=CC=C2 | C11H12N4
reactant | methyl isocyanate | 1.6 ml | CN=C=O | C2H3NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 10,11-dihydro-5-methyl-11-methylcarbamyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 2.3 g | CN1N2C(CN(C3=C1C=CN=C3)C(NC)=O)=CC=C2 | C13H15N5O
